US06326372B1
Step 1: 3,3-Dimethylglutaric Anhydride
3,3-Dimethylglutaric acid (18.70 g, 116.8 mmol) was dissolved in acetyl chloride (25 mL, 352 mmol), and refluxed for 2 hours. The reaction mixture was evaporated to dryness, and the residue was dissolved in diethyl ether. The ether solution was concentrated on a steam bath, and then cooled to 0° C. for 1 hour. The precipitate was filtered to give the title compound.

reactant | 3,3-Dimethylglutaric acid | 116.8 mmol, 18.70 g | CC(CC(=O)O)(CC(=O)O)C | C7H12O4
reactant | acetyl chloride | 352 mmol, 25 mL | C(C)(=O)Cl | C2H3ClO
product | 3,3-Dimethylglutaric Anhydride | CC1(CC(=O)OC(C1)=O)C | C7H10O3
